US04409214
To a suspension of benzhydryl 7-[2-(2-formamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (11.48 g) in methylene chloride (57.4 ml) and anisole (15 ml) was added 2,2,2-trifluoroacetic acid (46 ml) under ice-cooling, and the mixture was stirred at 7° to 8° C. for 15 minutes. After the reaction mixture was poured into diisopropyl ether (600 ml), it was stirred under ice-cooling for 20 minutes, followed by collecting the insoluble substance by filtration and washing it with diisopropyl ether. This substance (11.4 g) was suspended in water (150 ml), adjusted to pH 6.5 with sodium bicarbonate and then treated with charcoal. The resultant filtrate was adjusted to pH 2.0 with 10% hydrochloric acid, and the precipitated substance was collected by filtration, washed with water and then dried to give 7-[2-(2-formamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (5.88 g), mp 200° C. (dec.).

reactant | benzhydryl 7-[2-(2-formamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 11.48 g | C(=O)NC=1SC(=CN1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N4O5S2
reactant | 2,2,2-trifluoroacetic acid | 46 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 600 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 57.4 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 15 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-formamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 5.88 g | C(=O)NC=1SC(=CN1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C15H14N4O5S2
